US05011931
A mixture of acetic anhydride (19.8 ml) and formic acid (13.5 ml) was stirred and heated at 60° under nitrogen for 2 hours. 1-(4-Fluoro-2-methylaminophenyl)-2-methylsulphonylethanone (10.0 g), was added portionwise to the mixture at ambient temperature with stirring. The mixture was stirred at 30° for 30 minutes. Water (30 ml) was added to the reaction mixture which was then stirred at 30° for 30 minutes. Concentration of the reaction mixture by evaporation in vacuo gave a green oil. The oil was dissolved in trichloromethane (50 ml) and washed with aqueous sodium hydrogen carbonate solution (7% w/w; 2×30 ml). The trichloromethane extract was dried (magnesium sulphate) and evaporated in vacuo to give a green oil which solidified at ambient temperature. Recrystallisation from toluene gave 5'-fluoro-N-methyl-2'-methylsulphonylacetylformanilide, m.p. 94.5°-95.5°.

reactant | acetic anhydride | 19.8 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 13.5 ml | C(=O)O | CH2O2
reactant | 1-(4-Fluoro-2-methylaminophenyl)-2-methylsulphonylethanone | 10.0 g | FC1=CC(=C(C=C1)C(CS(=O)(=O)C)=O)NC | C10H12FNO3S
reactant | Water | 30 ml | O | H2O
solvent | trichloromethane | 50 ml | ClC(Cl)Cl | CHCl3
product | 5'-fluoro-N-methyl-2'-methylsulphonylacetylformanilide | FC=1C=CC(=C(N(C=O)C)C1)C(CS(=O)(=O)C)=O | C11H12FNO4S
